Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
vertigo, diplopia, headache
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
Dr. ___ is a ___ right handed man with a history of a
pontine cavernous malformation, HTN, dyslipidemia and migraines
with aura who presented after two episodes of headache with
vertigo in the past week.

He was in his usual state of health when on ___ he
developed acute onset splitting headache over bilateral
temporoparietal regions, ___ in pain.   A few minutes later he
developed horizontal diplopia with room-spinning vertigo and
nausea.   He went to rest on his bed, with generalized weakness. 

He took Tylenol ___ hour into the episode with mild headache
relief.  There was no photo- or phonophobia and no focal 
weakness
or change in sensation.   Headache resolved after ___ hours, 
with
diplopia and dizziness resolving over the subsequent ___ hours
after the headache went away, such that he was back to his
neurologic baseline by the evening.  

He was subsequently symptom free until day of presentation
___.   While reading from his iPhone in a seated position at
around 10:30am, he developed horizontal diplopia, worse on
rightward gaze, with nausea and room-spinning vertigo.  Over the
next hour he then developed a moderate throbbing headache over
biparietal regions about ___ in severity.  He laid down in bed
the whole day with slow improvement in headache, now down to
___, however with persistent diplopia and vertigo, such that in
discussion with his wife, he presented to the ED.   He also 
notes
being unsteady on his feet, maybe leaning more towards the left. 


He was admitted to the Stroke Neurology service on ___ for
headache, nausea, and then left facial weakness, left arm and 
leg
weakness and numbness, also with vertigo and horizontal 
diplopia.
On examination he had left-sided ataxia, difficulty with tandem
gait, and positive Romberg.  During his admission, there was a
7mm pontine cavernoma with chronic blood products and no 
evidence
of acute or early subacute hemorrhage. His symptoms resolved by
time of discharge and recommended outpatient Neurosurgical
follow-up.   He was seen by Dr. ___ ___ ___
later in ___, who felt that this anterior brainstem
cavernous malformation was likely asymptomatic and did not
recommend any additional evaluations or interventions. 

He has had similar symptoms previously. In ___ he had transient
horizontal diplopia while driving. The following day he noticed
left facial numbness while shaving. A brain MRI in ___ in 
___
showed a brainstem cavernoma. 

On ___ ___, he had a similar event with a bi-temporal
throbbing headache, diplopia, numbness and weakness on left 
side,
and difficulty walking. These symptoms lasted for 12 hours. He
was admitted to ___. During that
hospitalization he reported symptoms of depression, heavy EtOH
use, spending lots of money, and recent behavioral changes. He
was seen by psychiatry who diagnosed him with bipolar disorder,
began Abilify, and transferred him to the inpatient psychiatric
unit for 4 days. There, he felt somewhat hopeless and took a lot
of Ativan. He had been recommended by neurology to have a brain
MRI for evaluation of his event with diplopia and hemiparesis 
but
this was not done.

He has a history of migraines with aura since he was young. He
typically gets a headache w/vomiting a couple times per year. 
He's had a few visual auras, described as color changes, as if
looking at everything through a rainbow. This would occur around
20 minutes before his headache. He has also had another type of
visual aura with tunnel vision and magnification as if looking
through a magnifying glass. 

 
Review of Systems: The pt denies loss of vision, blurred vision,
dysphagia. Denies difficulties producing or comprehending 
speech.
No bowel or bladder incontinence or retention. The pt denies
recent fever or chills.  Denies cough.  Denies chest pain or
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or
bladder habits.  No dysuria. Denies rash.

 
Past Medical History:
- Brainstem Cavernoma
- History of possible bipolar disorder
- Gastritis
- L ear hearing loss
- Psoriasis 
- Dyslipidemia
- Hypertension
 
Social History:
with his wife. Originally from ___, moved here ___.
Worked as a ___ in ___, owned his own clinic x ___ yrs though
has been doing mostly administrative work and hasn't seen
patients in ___ yrs. He has sold his clinic and recently finished 
a
lawsuit regarding this, however he remains financially limited
while awaiting compensation from the suit. He lost his parents
earlier in the year. He started another business project 
recently
regarding an online portal, however the project fell through.  
He
and his wife report chronically elevated stress.  He exercises
regularly.
- Tobacco: former pipe smoker ___ years old)
- EtOH: ___ glasses of wine a week, previously ___ drinks daily
(vodka and
wine)
- Drugs: denies

 
Family History:
- mother with depression in her ___, tx with ECT
- sister with bipolar disorder

 
Physical Exam:
***ADMISSION PHYSICAL EXAMINATION***
Vitals:  97.1 68 124/87 16 98% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT
Neck: Supple. 
Pulmonary: breathing comfortably on RA
Abdomen: soft, nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.

NEUROLOGIC EXAMINATION

-Mental Status: Alert, oriented x3.  Able to relate history
without
difficulty.  Language is fluent with normal prosody.  There were
no paraphasic errors.  Pt. was able to name both high and low
frequency objects.  Able to read without difficulty. Speech was
not dysarthric.  Able to follow both midline and appendicular
commands.  There was no neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm bilaterally.  VFF to confrontation with 
finger
counting. 
III, IV, VI: Horizontal diplopia on primary gaze that worsened
with rightward gaze.  He reports that the left image disappears
when covering his right eye.  Unable to appreciate previously
identified mild torsional nystagmus during last Neurology ED
evaluation. Slight R exotropia on cover-uncover test.  Otherwise
EOM were intact.  Positive head impulse test with leftward
corrective saccade with right head jerk.   
V: Facial sensation intact to light touch and pin in all
distributions 
VII: No facial droop with symmetric upper and lower facial
musculature bilaterally  
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: Full strength in trapezii bilaterally.
XII: Tongue protrudes in midline with full ROM right and left 

-Motor: Normal bulk throughout. No pronator drift bilaterally. 
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     1    1
R   2    2     2     1    1
- Toes were downgoing bilaterally.

-Sensory: No deficits to light touch throughout, vibratory sense
about 5 seconds in each big toe. No extinction to DSS. 
-Coordination: No evidence of dysmetria on FNF. Positive 
Romberg,
falling backwards.  Negative ___.
-Gait:  Narrow based, normal stride without problems, intact 
heel
and toe walking.  Unsteady with tandem gait bilaterally.

***DISCHARGE PHYSICAL EXAMINATION***
Vitals within normal limits
Gen: awake, alert, comfortable, in no acute distress
HEENT: normocephalic atraumatic, no oropharyngeal lesions 
CV: warm, well perfused
Pulm: breathing non labored on room air
Extremities: no cyanosis/clubbing or edema

Neurologic:
-MS: Awake, alert, oriented to self, place, time and situation. 
Easily maintains attention to examiner. Able to say months of 
the year backwards. Speech fluent, no dysarthria.  No evidence 
of hemineglect.
-CN: Gaze conjugate, ___ 4>2 b/l, EOMI with trace right end 
gaze nystagmus which extinguishes, Visual fields full to finger 
wiggling, Slight R exotropia on cover-uncover test, no diplopia. 
face symmetric, palate elevates symmetrically, tongue midline
-Motor: normal bulk and tone. Muscle strength ___ in bilateral 
upper and lower extremities. No tremor or asterixis. 
-Sensory: intact to LT and proprioception in bilateral UE and ___
-Coordination: finger nose finger intact, no dysmetria
-Gait:Narrow based, normal stride without problems, intact heel
and toe walking.  No difficulty with tandem gait bilaterally.

 
Pertinent Results:
CBC: 6.2>13.1<232
Cr 0.9, BUN 24
UA with elevated Spec ___ > 1.050, trace protein

IMAGING:
___, CTA head/neck ___: unremarkable for acute processes

MRI head ___: 1. No acute intracranial abnormality including 
acute hemorrhage, or infarct.  2. Unchanged 7 mm pontine 
cavernoma with chronic blood products, without evidence of 
associated acute hemorrhage. 

 
Brief Hospital Course:
___ year old right handed male with a history of a brainstem 
cavernoma who presented with recurrent headache, associated with 
room spinning vertigo, nausea, horizontal diplopia and unsteady 
gait. On exam, he had horizontal diplopia on primary gaze that 
worsened on rightward gaze, with a subtle right exotropia 
(resolved the next morning). He has a positive Romberg and 
mildly unsteady gait. He had a prior hospitalization for a 
similar episode. He was admitted to the hospital for stroke 
workup. Stroke risk factors included TSH 2.3, LDL 87, and 
Hemoglobin A1c 5.1. He had a CTA head/neck without large vessel 
occlusion and MRI head w/o contrast which was negative for 
stroke, revealing only his known, baseline pontine glioma.

Overall the most likely etiology was basilar migraine. Cavernoma 
was thought to be too anterior to explain his symptoms and 
appeared stable.

TRANSITIONAL ISSUES:
- Changed Metoprolol to low dose Propranolol (10mg BID) for 
blood pressure management in setting of headache syndrome 
(propranolol is more efficacious for migraine)
- For abortive treatment, recommend Compazine and Naproxen 
synergistically. Instructed to limit use to no more than twice 
per week, and to return to the hospital should symptoms be 
refractory and not responsive to treatment. 
- Neurology follow up was not arranged here due to patient 
planning to move soon, however was given the clinic contact 
information should he need a local appointment. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Tartrate 12.5 mg PO BID 
2. Pantoprazole 40 mg PO Q24H 
3. Atorvastatin 40 mg PO QPM 

 
Discharge Medications:
1.  Naproxen 500 mg PO Q12H:PRN Pain - Severe 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day as needed 
Disp #*20 Tablet Refills:*0 
2.  Prochlorperazine 10 mg PO Q8H:PRN headache 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 8 
hours as needed Disp #*20 Tablet Refills:*0 
3.  Propranolol 10 mg PO BID 
RX *propranolol 10 mg 1 tablet(s) by mouth twice a day Disp 
#*120 Tablet Refills:*1 
4.  Atorvastatin 40 mg PO QPM  
5.  Pantoprazole 40 mg PO Q24H  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Basilar migraine 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized at ___ due to 
symptoms of headache, vertigo, nausea, double vision and 
unsteady gait. Initially, we had concern that you could have 
been having a stroke given the description of your symptoms.  
However, we did an MRI of your head which did not show signs of 
stroke. Also, your symptoms improved and you felt back to your 
baseline. 

Overall, the cause of your symptoms appears to be a basilar 
migraine. This is a type of headache syndrome that causes the 
symptoms you described. As a result, we will change your 
Metoprolol to Propranolol, which is a blood pressure medication 
that helps with this condition.

Moving forward, should you have recurrent symptoms, try to take 
Compazine and Naproxen, which we will prescribe to you. Please 
limit use to no more than ___ times per week, as taking it more 
than this can increase the risk of medication overuse headache. 
Should your symptoms persist or not improve after these 
interventions, it is important to contact your doctor or proceed 
to the Emergency Department. 

It was a pleasure taking care of you.

Sincerely,
Your ___ care team 

 
Followup Instructions:
___